US08008525B2
3-(4-{[3-(2-Aminoethoxy)-5-phenoxybenzyl]oxy}-3-fluorophenyl)propanoic acid hydrochloride
To 3-{4-[(3-{2-[(tert-butoxycarbonyl)amino]ethoxy}-5-phenoxybenzyl)oxy]-3-fluorophenyl}propanoic acid (0.20 g, 0.38 mmol) was added a solution of hydrochloric acid in ethyl acetate (4 N, 1 mL), and the mixture was stirred 15 hours. The reaction solution was concentrated under reduced pressure, and the resulting white powders were separated by filtration, washed with ethyl acetate and dried to give the title compound. Yield 89%.

reactant | 3-{4-[(3-{2-[(tert-butoxycarbonyl)amino]ethoxy}-5-phenoxybenzyl)oxy]-3-fluorophenyl}propanoic acid | 0.38 mmol, 0.20 g | C(C)(C)(C)OC(=O)NCCOC=1C=C(COC2=C(C=C(C=C2)CCC(=O)O)F)C=C(C1)OC1=CC=CC=C1 | C29H32FNO7
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 4 N, 1 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-{[3-(2-Aminoethoxy)-5-phenoxybenzyl]oxy}-3-fluorophenyl)propanoic acid hydrochloride | Yield 89% | Cl.NCCOC=1C=C(COC2=C(C=C(C=C2)CCC(=O)O)F)C=C(C1)OC1=CC=CC=C1 | InChI=1S/C24H24FNO5.ClH/c25-22-14-17(7-9-24(27)28)6-8-23(22)30-16-18-12-20(29-11-10-26)15-21(13-18)31-19-4-2-1-3-5-19;/h1-6,8,12-15H,7,9-11,16,26H2,(H,27,28);1H
